US07790756B2
Ethyl 3-t-butyl-1-(2-(trifluoromethylsulfonyloxy)quinolin-6-yl)-1H-pyrazole-5-carboxylate (see WO 2006/071940A2, 0.380 g, 0.806 mmol), MeNH2.HCl (0.109 g, 1.61 mmol) and Et3N (0.449 ml, 3.22 mmol) were combined DMF (8 mL) and stirred at RT overnight. Additional portions of MeNH2.HCl (0.109 g, 1.61 mmol) and Et3N (0.449 ml, 3.22 mmol) were added and the reaction was stirred an additional 4 h at RT and 3 h at 60° C. The completed reaction was diluted with brine and extracted with EtOAc. The extracts were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography to provide ethyl 3-tert-butyl-1-(2-(methylamino)quinolin-6-yl)-1H-pyrazole-5-carboxylate (240 mg, 85% yield). 1H NMR (400 MHz, DMSO-d6) δ 7.90 (d, J=9.2 Hz, 1H), 7.68 (d, J=2.8 Hz, 1H), 7.53 (d, J=9.2 Hz, 1H), 7.46 (dd, J=8.8, 2.0 Hz, 1H), 7.17 (q, J=4.8 Hz, 1H), 6.98 (s, 1H), 6.80 (d, J=8.8 Hz, 1H), 4.16 (q, J=7.2 Hz, 2H), 2.92 (d, J=4.8 Hz, 3H), 1.32 (s, 9H), 1.13 (t, J=7.2 Hz, 3H); MS (ESI) m/z: 353.2 (M+H+).

reactant | Ethyl 3-t-butyl-1-(2-(trifluoromethylsulfonyloxy)quinolin-6-yl)-1H-pyrazole-5-carboxylate | 0.806 mmol, 0.380 g | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)C=1C=C2C=CC(=NC2=CC1)OS(=O)(=O)C(F)(F)F | C20H20F3N3O5S
reactant | MeNH2.HCl | 1.61 mmol, 0.109 g | CN.Cl
reactant | Et3N | 3.22 mmol, 0.449 ml | CCN(CC)CC | C6H15N
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
reactant | MeNH2.HCl | 1.61 mmol, 0.109 g | CN.Cl
reactant | Et3N | 3.22 mmol, 0.449 ml | CCN(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | ethyl 3-tert-butyl-1-(2-(methylamino)quinolin-6-yl)-1H-pyrazole-5-carboxylate | 240 mg, 85% yield | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)C=1C=C2C=CC(=NC2=CC1)NC | C20H24N4O2
